* ideal_models.lib — ideal macromodels for PT100 readout DC validation
* In KiCad 8: each part's Simulation Model -> "SPICE model from file:" -> this file,
* then the Pin Assignments tab to map symbol pins to ports.
* Every port is tied to ground through 1G so no node floats (avoids singular-matrix errors).

* ---- Ideal instrumentation amp: fixed gain 10.107, output referred to REF pin ----
.subckt INA128_IDEAL OUT INP INN REF VP VM RG1 RG8
B1  OUT REF V = 10.107*(V(INP) - V(INN))
Rin INP INN 1G
Rvp VP 0 1G
Rvm VM 0 1G
Rg1 RG1 0 1G
Rg8 RG8 0 1G
.ends

* ---- Ideal op-amp (open-loop gain 1e6; close the loop with the external feedback R's) ----
* Only needed if you did NOT use KiCad's built-in Simulation_SPICE "OP